US07521461B2
2-(2-Ethoxyphenyl)ethanamine (0.55 g, 3.33 mmol) and 3-(4-hydroxyphenyl)propanoic acid (0.50 g, 3.00 mmol) was dissolved in dimethyl formamide (5 ml) and cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (1.18 g, 3.66 mmol) and diisopropylethylamine (0.90 g, 7.0 mmol) were added and the solution was warmed to room temperature and stirred overnight. EtOAc (15 ml) was added and the organic phase was washed with two portions of sodium hydrogencarbonate (aq, 10 ml). The organic phase was dried (MgSO4) and EtOAc was removed by evaporation to give 0.98 gram of N-[2-(2-ethoxyphenyl)ethyl]-3-(4-hydroxyphenyl)propanamide (yield 93.9%).

reactant | 2-(2-Ethoxyphenyl)ethanamine | 3.33 mmol, 0.55 g | C(C)OC1=C(C=CC=C1)CCN | C10H15NO
reactant | 3-(4-hydroxyphenyl)propanoic acid | 3.00 mmol, 0.50 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 3.66 mmol, 1.18 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 7.0 mmol, 0.90 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | N-[2-(2-ethoxyphenyl)ethyl]-3-(4-hydroxyphenyl)propanamide | 0.98 gram, yield 93.9% | C(C)OC1=C(C=CC=C1)CCNC(CCC1=CC=C(C=C1)O)=O | C19H23NO3
